US05155113
Preparation of 4-benzoyloxy-2-pyridone
50 ml of a solution of 1.00 g of 4-hydroxy-2-pyridone and 1.35 ml of benzoyl chloride in pyridine was refluxed for 6 hours. After the pyridine was distilled off, the residue was mixed with water. The precipitate was recovered by filtration and was washed with a small amount of ethanol to obtain 0.86 g of the title compound in a yield of 44%.

reactant | 4-hydroxy-2-pyridone | 1.00 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | benzoyl chloride | 1.35 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-benzoyloxy-2-pyridone | 0.86 g, yield of 44% | C(C1=CC=CC=C1)(=O)OC1=CC(NC=C1)=O | C12H9NO3
